### PR TITLE
Continuing #18564: further more "standard" namings of lemmas of the form "length (foo l)"

### PR DESCRIPTION
**Pull request by herbelin**
This addresses [this comment](https://github.com/coq/coq/pull/19281#issuecomment-2313315793) (hoping I'm doing it correctly).

- [x] Added **changelog**.

### CODE REVIEW

**Review by andres-erbsen — APPROVED** [review]
IMO the new names are better than before. They do not fit as squarely into the `f_g` convention for rewriting `f (g x)` as my previous PR on this topic, but at least it's better to match similar lemmas with similar names.

**Comment by andres-erbsen** [comment]
@coqbot run full ci

**Comment by herbelin** [comment]
Thanks for the feedback. You know the library better than I do, so if you have alternative suggestions, don't hesitate.

File: theories/Lists/List.v [hunk 1]
```diff
@@ -2185,14 +2185,14 @@ Section Cutting.
...
-  Lemma firstn_le_length n: forall l:list A, length (firstn n l) <= n.
+  Lemma length_firstn_le n: forall l:list A, length (firstn n l) <= n.
   Proof.
     induction n as [|k iHk]; simpl; [auto | intro l; destruct l as [|x xs]; simpl].
     - now apply Nat.le_0_l.
     - now rewrite <- Nat.succ_le_mono.
   Qed.
 
-  Lemma firstn_length_le: forall l:list A, forall n:nat,
+  Lemma length_firstn_eq: forall l:list A, forall n:nat,
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2195]:
```suggestion
  Lemma ength_firstn_all: forall l:list A, forall n:nat,
```
I thought I would like `length_firstn_all` to also match the lemma `firstn_all`, except `firstn_all` ls really the one I meant...

File: theories/Lists/List.v [hunk 2]
```diff
@@ -3854,7 +3854,7 @@ Proof.
   rewrite flat_map_concat_map, length_concat, map_map. reflexivity.
 Qed.
 
-Corollary flat_map_constant_length A B c (f: A -> list B) l:
+Corollary length_flat_map_constant A B c (f: A -> list B) l:
```
Comment (andres-erbsen) [inline theories/Lists/List.v:3857]:
```suggestion
Corollary length_flat_map_constlength A B c (f: A -> list B) l:
```

File: theories/Lists/List.v [hunk 3]
```diff
@@ -2185,14 +2185,14 @@ Section Cutting.
   Lemma firstn_O l: firstn 0 l = [].
   Proof. now simpl. Qed.
 
-  Lemma firstn_le_length n: forall l:list A, length (firstn n l) <= n.
+  Lemma length_firstn_le n: forall l:list A, length (firstn n l) <= n.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2188]: Trying to match other stlib usage would have us consider `length_firstn_bound`, but I don't like it and I am not sure why.

File: theories/Lists/List.v [hunk 4]
```diff
@@ -1730,20 +1730,20 @@ End Fold_Right_Recursor.
...
+    Corollary length_filter f (l : list A) : length (filter f l) + length (filter (fun x => negb (f x)) l) = length l.
     Proof. symmetry. apply (partition_length f), partition_as_filter. Qed.
 
-    Corollary filter_length_le f (l : list A): length (filter f l) <= length l.
-    Proof. rewrite <- (filter_length f l). apply Nat.le_add_r. Qed.
+    Corollary length_filter_le f (l : list A): length (filter f l) <= length l.
+    Proof. rewrite <- (length_filter f l). apply Nat.le_add_r. Qed.
 
-    Lemma filter_length_forallb f (l : list A): length (filter f l) = length l -> forallb f l = true.
+    Lemma length_filter_forallb f (l : list A): length (filter f l) = length l -> forallb f l = true.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:1739]:
```suggestion
    Lemma length_filter_all f (l : list A): length (filter f l) = length l -> forallb f l = true.
```

The current one could be misread as applying to `length (filter (fun x => forallb ...) l)`  which doesn't make sense but still might be nice to avoid.

File: theories/Lists/List.v [hunk 5]
```diff
@@ -842,21 +842,21 @@ Section Elts.
...
+  Lemma length_remove_le : forall l x, length (remove x l) <= length l.
   Proof.
     intro l; induction l as [|y l IHl]; simpl; intros x; trivial.
     destruct (eq_dec x y); simpl.
     - rewrite IHl; constructor; reflexivity.
     - apply (proj1 (Nat.succ_le_mono _ _) (IHl x)).
   Qed.
 
-  Lemma remove_length_lt : forall l x, In x l -> length (remove x l) < length l.
+  Lemma length_remove_lt : forall l x, In x l -> length (remove x l) < length l.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:853]: For these I don't have any suggestions based on the current conventions, rather I'd say we are at the limits of these conventions. Stretching the applicability of the hott style guide would suggest renaming `length_remove_le` into `le_length_remove_l`, which seems counter-intuitive to me.

If we wanted to do something new, one idea I have is to have a separate convention for variants or cases of "the same" result, loosely defined. For example `length_remove`, `length_remove'le`, and `length_remove'lt`; or some other separator. Wdyt?

File: theories/Lists/List.v (hunk 2 above)
Comment (Villetaneuse) [reply theories/Lists/List.v:3857]: No strong opinion about this one: `constlength` gives more context (the `length` of `flat_map` is constant, not `flap_map` itself), but this introduces a new contraction in the stdlib names, maybe `length_flat_map_constant_length` (but it's a bit of a mouthful)?

**Review by Villetaneuse — COMMENTED** [review]
I have made a new review. I'm open to discussion, but in general I like @herbelin's renamings more than what @andres-erbsen suggests. I welcome further discussions.
Maybe some effort to write (even if it's very loosely specified) some naming guidelines should be done (I would be willing to help, but warning: I'm very close to being ultra busy again).

I think the new names are strictly better than the old ones for the user. I'm not sure if compatibility notations should have an expiration date.

By the way, this made me take a look at `List.v` and there is room for improvement (in other PR's probably), for instance I found no lemma stating that `length x :: xs = S (length xs)` (these are useful to rewrite in both direction and avoid `simpl` (or equivalents) when they explode).
Also, we could at least add notations to replace `O` (the letter O) with `0` (digit 0) in lemmas, but again, let's keep it as a TODO.

File: theories/Lists/List.v (hunk 4 above)
Comment (silene) [reply theories/Lists/List.v:1739]: My personal convention is to always name a theorem by its goal (and then its hypotheses, if needed). So, for me, the name would be `forallb_length_filter`.

File: theories/Lists/List.v (hunk 5 above)
Comment (silene) [reply theories/Lists/List.v:853]: `length_remove_lt` is what I would use in my own developments.

File: theories/Lists/List.v (hunk 2 above)
Comment (andres-erbsen) [reply theories/Lists/List.v:3857]: I agree that the contraction is a potential confusion. With `length_flat_map_constant_length`, we have a potential ambiguity with `length (flat_map (fun _ => constant) l) = length l * length constant`. But any of these will probably do in practice.

**Comment by andres-erbsen** [comment]
Thank you for the input @Villetaneuse. I am fine with this going ahead as-is, or with any subset of your suggestions. If @herbelin feels comfortable making the picks, let's merge, and start a new draft PR for naming guidelines.

**Comment by herbelin** [comment]
I then adopted @silene's proposal for `forallb_length_filter` and kept the other names, hoping it is ok for everyone.

I also added a few uniformisation in notations, such as using twice `<?` rather than once `<?` and once `ltb`.

About deprecation, I personally don't care about providing synonyms but if the consensus is to prefer an official name and deprecation of the other names, I can do it.

**Comment by herbelin** [comment]
I also took a look at std++, ext-lib and mathcomp to compare the statements provided around `firstn`. The results are in the following table:

| statement                                                          |   List.v         | std++          |   ext-lib    | mathcomp      |   
| ------------------------------------------------------------------ | ---------------- | -------------- | ------------ | ------------- |
| (*name of the function*)                                                                   | firstn           | take           | firstn       | take          |
| firstn n [] = []                                                   | firstn_nil       | take_nil       |              | take0         | 
| firstn 0 l = []                                                    | firstn_0 l       |                |              |               |
| n = 0 -> firstn n a = []                                           |                  |                | firstn_0     |               |
| firstn (S n) (a::l) = a :: (firstn n l)                            | firstn_cons      |                |              |               |
| 0 < n -> firstn n (a :: b) = a :: firstn (n - 1) b                 |                  |                | firstn_cons  |               |
| firstn n0 (x :: s) = if n0 is S n then x :: firstn n s else []     |                  |                |              | take_cons     |
|                                                                    |                  |                |              |               |
| firstn i l ++ lastn i l = l                                        | firstn_lastn     | take_drop      |              | cat_take_drop |
|                                                                    |                  |                |              |               |
| nth_error n = Some x -> firstn (S n) l = firstn n l ++ [x]         |                  | take_S_r       |              |               |
| nth_error (firstn n l) i = if i <? n then nth_error l i else None  | nth_error_firstn |                |              |               |
| nth (firstn n l) i = if i <? n then nth l i else None              | nth_firstn       |                |              |               |
| i < n -> nth_error i (firstn n l) = nth_error i l                  |                  | lookup_take    |              | nth_take      |
| n < length l -> firstn (S n) s = firstn n l :: nth_error l n       |                  |                |              | take_nth      |
|                                                                    |                  |                |              |               |
| firstn (length l) l = l                                            | firstn_all       |                |              | take_size     |
| length l <= n -> firstn n l = l                                    | firstn_all2      | take_ge        | firstn_all   | take_oversize |
| length (firstn n l) <= n                                           | length_firstn_le | take_length_le |              |               |
| length (firstn n l) = min n (length l)                             |                  | take_length    |              | size_take_min |
| length l <= n -> length (firstn n l) = length l                    |                  | take_length_ge |              |               |
| n <= length l -> length (firstn n l) = n                           | length_firstn_eq |                |              | size_takel    |
| length (firstn n s) = if n < length s then n else length s         |                  |                |              | size_take     |
|                                                                    |                  |                |              |               |
| firstn i (firstn j l) = firstn (min i j) l                         | firstn_firstn    | take_take      |              |               |
| firstn (min i j) l = firstn i (firstn j l)                         |                  |                |              | take_min      |
| firstn n (firstn n l) = firstn n l                                 |                  | take_idemp     |              |               |
| i <= j -> firstn i (firstn j l) = firstn i l                       |                  |                |              | take_takel    |
| j <= i -> firstn i (firstn j l) = firstn j l                       |                  |                |              | take_taker    |
| firstn i (firstn j s) = firstn j (firstn i s)                      |                  |                |              | takeC         |
|                                                                    |                  |                |              |               |
| firstn (length l) (l ++ k) = l                                     |                  | take_app       |              |               |
| n = length l -> firstn n (l ++ k) = l                              |                  | take_app_alt   |              |               |
| n <= length l -> firstn n (l ++ k) = firstn n l                    |                  | take_app_le    | firstn_app_L | takel_cat     |
| n = length l1 -> firstn n ((l1 ++ l2) ++ l3) = l1                  |                  | take_app3_alt  |              |               |
| firstn n (l1 ++ l2) = (firstn n l1) ++ (firstn (n - length l1) l2) | firstn_app       |                |              |               |
| firstn n (s1 ++ s2) = if n < length s1 then firstn n s1 else s1 ++ firstn (n - length s1) s2 |                  |                |              | take_size_cat |
| length a <= n -> firstn n (a ++ b) = a ++ firstn (n - length a) b  |                  |                | firstn_app_R |               |
| firstn ((length l1) + n) (l1 ++ l2) = l1 ++ firstn n l2            | firstn_app_2     |                |              |               |
|                                                                    |                  |                |              |               |
| i <= j -> firstn (repeat j x) = repeat i x                         |                  |                |              | take_nseq     |

(skipping a few other results in mathcomp involving firstn and other functions)

In the objective of eventually having these different libraries differing only in their naming scheme, we may think at what lemmas present here or there but absent elsewhere would be worth to be added, already starting with what should be available in *a* standard library.

So, do you see statements in the list you'd like to see added?

**Comment by andres-erbsen** [comment]
Thank you for doing the survey!

Additions that I immediately think would be useful (I remember proving them, probably more than once...):
- `length_firstn : length (firstn n l) = min n (length l)`
- `firstn_seq n m s : firstn n (seq s m) = seq s (min n m)`
- firstn_app_exact : n = length l -> firstn n (l ++ k) = l` (derivable but convenient)

If we want to be super systematic with naming:
- rename `firstn_S_cons : firstn (S n) (a::l) = a :: (firstn n l)`
- `firstn_S : firstn (S n) xs = match xs with [] => [] | x::xs => x::firstn n xs end` (not sure about this one)
- `firstn_cons : firstn n (x::xs) = if n =? 0 then [] else firstn (n-1) xs`
- I am not thoroughly opposed to precondition-carrying versions of these lemmas if they have a name different from the last three.

I would probably not include (or at least use a long name for)
- lemmas about `nth` or `nth_default`
- other lemmas with preconditions that are subsumed by lemmas with `min` or a conditional in the right-hand side
- commuting lemmas (in favor of `firstn_firstn`)

I also like `take` better than `firstn`, even though I am less used to it, and think it's nicer to have the nat as the second argument, but I do not currently feel up to doing either migration. `xs[:i]` is also a nice notation (but may cause issues with factorization of lexer tokens).

**Comment by herbelin** [comment]
> Additions that I immediately think would be useful (I remember proving them, probably more than once...):
> 
>     * `length_firstn : length (firstn n l) = min n (length l)`
> 
>     * `firstn_seq n m s : firstn n (seq s m) = seq s (min n m)`
> 
>     * `firstn_app_exact : n = length l -> firstn n (l ++ k) = l` (derivable but convenient)

OK, will do (and will consider other additions too).

There is the side question of adding `_min` in the name of `length_firstn` and `firstn_seq` (for the former, mathcomp does but std++ does not). An argument for not is that this is somehow *the* basic lemma about `length` of `firstn`. An argument for yes is to mention the main ingredients, but that can make using the lemma more heavy. (I'm slightly leaning for a yes though.)

**Comment by herbelin** [comment]
> If we want to be super systematic with naming:
> 
>     * rename `firstn_S_cons : firstn (S n) (a::l) = a :: (firstn n l)`
> 
>     * `firstn_S : firstn (S n) xs = match xs with [] => [] | x::xs => x::firstn n xs end` (not sure about this one)
> 
>     * `firstn_cons : firstn n (x::xs) = if n =? 0 then [] else firstn (n-1) xs`

Yes, adding `S` would give a more systematic naming. In `Arith` and cie, one uses `succ` instead of `S`, should we do the same for `List`? Currently, `List.v` uses `S` often, so let's keep it like this.
 
>     * I am not thoroughly opposed to precondition-carrying versions of these lemmas if they have a name different from the last three.

You mean statements like `n = 0 -> firstn n l = []` I guess.

> I would probably not include (or at least use a long name for)
> 
>     * lemmas about `nth` or `nth_default`
> 
>     * other lemmas with preconditions that are subsumed by lemmas with `min` or a conditional in the right-hand side
> 
>     * commuting lemmas (in favor of `firstn_firstn`)

I'm planning to add `firstn_comm` though, which I find algebraically nice.

**Comment by herbelin** [comment]
> I also like `take` better than `firstn`, even though I am less used to it

`firstn`/`skipn` are the names we used for years in the implementation of Coq and I find them quite intuitive.

However, I see that OCaml will finally add `take` and `drop` to the standard library of its version 5.3 (ocaml/ocaml#9968), using the same names as in [Haskell](https://hackage.haskell.org/package/base-4.20.0.1/docs/Data-List.html#g:11), so, maybe can we also follow this usage.

> and think it's nicer to have the nat as the second argument, but I do not currently feel up to doing either migration.

By nicer, you mean more practical? Most of lemmas have the nat before in `List.v`, ext-lib and math-comp, but std++ seems to have the nat generally after.

> `xs[:i]` is also a nice notation (but may cause issues with factorization of lexer tokens).

Yes, looks nice.

**Comment by herbelin** [comment]
This is probably well-known, but any lemma of the form `f i j = min (g i) (h j)` actually and canonically yields 5 other lemmas:
- `g i <= h j -> f i j = g i`
- `h i <= g i -> f i j = h j`
- `f i j <= g i`
- `f i j <= h j`
- `f i j = if g i <? h j then g i else h j`

I'm planning to experimenting applying this remark to the lemmas referring to `min`.

**Comment by herbelin** [comment]
I pushed a few other commits:
- Renaming `firstn_cons` -> `firstn_S_cons` as suggested by @andres-erbsen to leave room for another statement `firstn n (x::xs) = if n =? 0 then [] else firstn (n-1) xs` of name `firstn_cons`
- Adding properties of `firstn` on `seq` and `repeat`
- Adding `firstn_app_exact` as suggested by @andres-erbsen, and its variant with an equality
- Systematic derivation of canonical statements when `firstn` and `min` are involved:
  - Regarding `length (firstn n l)`:
    - `length_firstn_min` : `length (firstn n l) = Nat.min n (length l)`
    - `le_length_firstn` : `length (firstn n l) <= n`
    - `le_length_firstn_length` : `length (firstn n l) <= length l`
    - `length_firstn_le` : `n <= length l -> length (firstn n l) = n`
    - `length_firstn_length_le` : `length l <= n -> length (firstn n l) = length l`
  (The 6th remains to be done.)
  - Regarding `firstn i (firstn j l)`:
    - `first_first_min` : `firstn i (firstn j l) = firstn (min i j) l`
    - `firstn_idemp` : `firstn i (firstn i l) = firstn i l`
    - `firstn_firstn_l` : `i <= j -> firstn i (firstn j l) = firstn i l`
    - `firstn_firstn_r` : `j <= i -> firstn i (firstn j l) = firstn j l`
    - `firstn_comm` : `firstn i (firstn j l) = firstn j (firstn i l)`
- An attempt to make the order `n` then `l` more systematic for `firstn` (leaving the question of having `n` after `l` open though).

**Comment by andres-erbsen** [comment]
> There is the side question of adding _min in the name of length_firstn and firstn_seq (for the former, mathcomp does but std++ does not). An argument for not is that this is somehow the basic lemma about length of firstn. An argument for yes is to mention the main ingredients, but that can make using the lemma more heavy. (I'm slightly leaning for a yes though.)

What about *also* grabbing the name without `_min` so that a less canonical lemma does net get named that? E.g. as a non-deprecated notation.

> > and think it's nicer to have the nat as the second argument, but I do not currently feel up to doing either migration.
> 
> By nicer, you mean more practical? Most of lemmas have the nat before in List.v, ext-lib and math-comp, but std++ seems to have the nat generally after.

Hmm, now thinking more about it, I'm not sure it's about lemmas even. When it's been a while since I last wrote list code, I usually remember the `xs[:i]` notation, successfully recall that it's called `firstn` in coq with a bit of effort, write some code, and get a type error for having written the nat after the list. Maybe it's just me.

**Comment by mattam82** [comment]
@herbelin You might all want to have a look at https://github.com/MetaCoq/metacoq/blob/coq-8.19/utils/theories/MCList.v for a few more useful lemmas about lists and nth_error in particular

File: theories/Lists/List.v [hunk 6]
```diff
@@ -4013,6 +4115,18 @@ Notation concat_length := length_concat (only parsing).
 Notation flat_map_length := length_flat_map (only parsing).
 #[deprecated(since = "8.20", note = "Use length_list_power instead.")]
 Notation list_power_length := length_list_power (only parsing).
+Notation remove_length_le := length_remove_le (only parsing).
+Notation remove_length_lt := length_remove_lt (only parsing).
+Notation filter_length := length_filter (only parsing).
+Notation filter_length_le := length_filter_le (only parsing).
+Notation filter_length_forallb := forallb_length_filter (only parsing).
+#[deprecated(since = "8.21", note = "Use firstn_S_cons instead.")]
```
Comment (gares) [inline theories/Lists/List.v:4123]: Please use the `use=qualid` attribute instead of `note="string"`.
It generates the same user message, but also a quickfix for LSP based UIs.

**Comment by herbelin** [comment]
@mattam82: thanks for the link! I see
- already existing: `firstn_map`, `firstn_ge` (= `firstn_all2`, though the name `firstn_ge` looks good), `firstn_app_left` (from the PR, with name `firstn_app_exact_eq`)
- I now added `firstn_0` (with name `firstn_0_eq`), `firstn_add`, `firstn_app_2_eq` (though the `2` in the name looks strange), `skipn_all_app`, `skipn_all_app_eq`, `length_firstn_le_inv` and `nth_error_firstn`
- that `skipn_firstn_skipn` holds is surprising; it looks a bit specific, but maybe it is more key than it looks
- `firstn_firstn_firstn` looks a bit specific (and actually apparently not used in metacoq itself)

File: theories/Lists/List.v (hunk 6 above)
Comment (herbelin) [reply theories/Lists/List.v]: Thanks for the remark, done.

Comment (herbelin) [reply theories/Lists/List.v]: Actually, I found a `Not_found` bug with `use`. I'll do a quick PR.

File: theories/Lists/List.v [hunk 7]
```diff
@@ -2341,6 +2431,19 @@ Section Cutting.
     skipn n (l1 ++ l2) = (skipn n l1) ++ (skipn (n - length l1) l2).
   Proof. induction n; auto; intros [|]; simpl; auto. Qed.
 
+  Lemma skipn_all_app (l l' : list A) : skipn (length l) (l ++ l') = l'.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2434]:
```suggestion
  Lemma skipn_app_exact (l l' : list A) : skipn (length l) (l ++ l') = l'.
```

File: theories/Lists/List.v [hunk 8]
```diff
@@ -2341,6 +2431,19 @@ Section Cutting.
...
+  Proof.
+    intros.
+    induction l in l' |- *.
+    - reflexivity.
+    - simpl. eauto.
+  Qed.
+
+  Lemma skipn_all_app_eq n (l l' : list A) : n = length l -> skipn n (l ++ l') = l'.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2442]:
```suggestion
  Lemma skipn_app_exact_eq n (l l' : list A) : n = length l -> skipn n (l ++ l') = l'.
```

File: theories/Lists/List.v [hunk 9]
```diff
@@ -2153,16 +2153,22 @@ Section Cutting.
...
 
   Lemma nth_error_firstn n l i
-    : nth_error (firstn n l) i = if Nat.ltb i n then nth_error l i else None.
+    : nth_error (firstn n l) i = if i <? n then nth_error l i else None.
   Proof.
     revert l i; induction n, l, i; cbn [firstn nth_error]; trivial.
     case Nat.ltb; trivial.
   Qed.
 
+  Lemma nth_error_firstn_inv n m l x
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2166]:
```suggestion
  Lemma nth_error_firstn_Some n m l x
```

**Comment by andres-erbsen** [comment]
The output test failure in the log excerpt looks innocuous and could be blessed IMO.

**Comment by herbelin** [comment]
@coqbot run full ci

**Comment by JasonGross** [comment]
Belatedly, do we have the eta principle of `firstn` (`firstn n ls = match n, ls with ... end`), which is the universal form from which all the single-step lemmas can be derived?

**Comment by herbelin** [comment]
> Belatedly, do we have the eta principle of `firstn` (`firstn n ls = match n, ls with ... end`), which is the universal form from which all the single-step lemmas can be derived?

Added., as well as for `skipn`.

**Comment by herbelin** [comment]
Finally CI-compliant.

File: theories/Lists/List.v [hunk 10]
```diff
@@ -2185,20 +2202,41 @@ Section Cutting.
...
-  Lemma firstn_le_length n: forall l:list A, length (firstn n l) <= n.
+  Lemma firstn_O_eq n l : n = 0 -> firstn n l = [].
+  Proof. now intros ->. Qed.
+
+  Lemma length_firstn_min : forall n l, length (firstn n l) = min n (length l).
+  Proof.
+    intro n; induction n; intro l; destruct l; simpl; auto.
+  Qed.
+
+  Lemma le_length_firstn n: forall l:list A, length (firstn n l) <= n.
```
[the remark this answers is not in the document]
Comment (herbelin) [reply theories/Lists/List.v:2213]: One problem is that there is already a `lemma length_firstn_le`. Currently, we have:
```
le_length_firstn : length (firstn n l) <= n
le_length_firstn_length : length (firstn n l) <= length l
length_remove_le : length (remove x l) <= length l
length_filter_le : length (filter f l) <= length l
length_firstn_le : n <= length l -> length (firstn n l) = n
length_firstn_length_le : length l <= n -> length (firstn n l) = length l.
firstn_seq_le : n <= m -> firstn n (seq start m) = seq start n
firstn_repeat_le : n <= m -> firstn n (repeat a m) = repeat a n
list_max_le : list_max l <= n <-> Forall (fun k => k <= n) l
```

File: theories/Lists/List.v [hunk 11]
```diff
@@ -2185,20 +2202,41 @@ Section Cutting.
...
-    - simpl. intros n H. apply Nat.le_0_r in H. now subst.
-    - intro n; destruct n as [|n].
-      * now simpl.
-      * simpl. intro H. f_equal. apply Hrec. now apply Nat.succ_le_mono.
+  Proof.
+    intros. rewrite length_firstn_min. now apply Nat.min_l.
+  Qed.
+
+  Lemma length_firstn_le_inv n : forall l:list A,
+    length (firstn n l) = n -> n <= length l.
```
[the remark this answers is not in the document]
Comment (herbelin) [reply theories/Lists/List.v:2230]: It comes from metacoq, so I assumed they had a need for it. It can be useful in forward reasoning I guess.

I simplified the proof.

**Comment by herbelin** [comment]
Incidentally, I  started a page [What to expect of a standard library about lists](https://github.com/coq/coq/wiki/What-to-expect-of-a-standard-library-about-lists%3F) to collect datas and ideas about a potential project of common "standard" library about lists. I guess that @CohenCyril, @robbertkrebbers, @gmalecha may eventually be interested.

**Comment by andres-erbsen** [comment]
@silene what do you think of the responses to your suggestions?

@herbelin do you need anything from us to make progress here?

**Comment by herbelin** [comment]
> @herbelin do you need anything from us to make progress here?

Nothing besides an answer from @silene, and if ok for him, to rather rename `length_remove_le` and `length_filter_le`.

**Comment by andres-erbsen** [comment]
@silene: gentle ping :) Please share your thoughts on the few remaining lemma names by next week. I would be happy to move to merge with any of the discussed options.

**Comment by proux01** [comment]
Stdlib is now in its own repo: https://github.com/coq/stdlib , if this PR is still current, please reopen it there.
